US08183380B2
3-(1H-Imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate (1.5 g, 3.0 mmol) was dissolved in acetonitrile (15 mL) and treated with morpholine (0.30 mL, 4.0 mmol) and stirred for 16 h at ambient temperature. The solvent was removed and the residue subjected to column chromatography (silica gel, heptane, ethyl acetate 1:1, 0:1) to yield 4-(imidazole-1-sulfonyl)-morpholine (0.62 g, 83%) as a white solid; MS: m/e=218.5 (M+H+).

reactant | 3-(1H-Imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate | 3.0 mmol, 1.5 g | FC(S(=O)(=O)[O-])(F)F.N1(C=NC=C1)S(=O)(=O)N1C[NH+](C=C1)C
reactant | morpholine | 4.0 mmol, 0.30 mL | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 4-(imidazole-1-sulfonyl)-morpholine | 0.62 g, 83% | N1(C=NC=C1)S(=O)(=O)N1CCOCC1 | C7H11N3O3S
